US07585877B2
2-Chloro-4-fluoro-3-methylbenzonitrile (198RL18)
3-Bromo-2-chloro-6-fluorotoluene (7.0 g, 31 mmol), zinc cyanide (3.7 g, 31 mmol) and tetrakis(triphenylphosphine)palladium(0) (1.81 g, 1.56 mmol) was added to a flask under argon atmosphere. Dry DMF (35 mL) was added and the reaction mixture was stirred under argon at 120° C. The reaction was monitored by GC-MS and full conversion was observed after 2 hours. The mixture was diluted with dichloromethane (300 mL), washed with water (100 mL) and 4% magnesium sulfate solution (100 mL), dried over magnesium sulphate, filtered, and evaporated to give a clear oil. The product was further purified by column chromatography on silica gel using n-heptane/ethyl acetate (9:1) giving a white solid (3.79 g, 71%).

reactant | 3-Bromo-2-chloro-6-fluorotoluene | 31 mmol, 7.0 g | BrC=1C(=C(C(=CC1)F)C)Cl | C7H5BrClF
reactant | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
catalyst | zinc cyanide | 31 mmol, 3.7 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.56 mmol, 1.81 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-4-fluoro-3-methylbenzonitrile | 3.79 g, 71% | ClC1=C(C#N)C=CC(=C1C)F | C8H5ClFN
